US05059609
2-Bromo-3,4-dihydro-7-methoxy-1(2H)-naphthalenone
To a 10° C. solution of 25 g (0.142 mol) of 7-methoxy-3,4-dihydro-1(2H)-naphthalenone in 1 liter ether was added dropwise (maintaining reaction temperature at about 10° C.) 37.9 g (0.237 mol) of bromine. The reaction solution was concentrated on a rotating evaporator and the residue crystallized from ether to give 31.6 g (87%) of present title compound, m.p. 79°-80° C.

reactant | 7-methoxy-3,4-dihydro-1(2H)-naphthalenone | 0.142 mol, 25 g | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | bromine | 0.237 mol, 37.9 g | BrBr | Br2
solvent | ether | 1 liter | CCOCC | C4H10O
product | 2-Bromo-3,4-dihydro-7-methoxy-1(2H)-naphthalenone | 31.6 g, 87% | BrC1C(C2=CC(=CC=C2CC1)OC)=O | C11H11BrO2
